US07625499B2
A 100-ml four-necked flask was used, 2.79 g (42.3 mM) of 85-percent by weight caustic potash was suspended in 30 ml of dimethylformamide, and 10 ml of dimethylformamide solution containing 5.28 g (43.2 mM) of hydroxybenzaldehyde was dropped thereto while being kept at 20° C. or lower. Thereafter, aging was performed at 30° C. for 1 hour. Subsequently, 9.58 g (32.9 mM) of 1-bromopentadecane was added and aging was performed at 70° C. for 21 hours. The reaction solution was dispersed into water, and extracted with toluene. After washing with water, concentration is performed so as to produce 11.03 g of slightly colored viscous liquid. Subsequently, a recrystallization treatment was performed with hexane so as to produce 8.91 g (purity 98.3%) of p-pentadecanoxybenzaldehyde.

reactant | caustic potash | [OH-].[K+]
reactant | hydroxybenzaldehyde | 43.2 mM, 5.28 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 1-bromopentadecane | 32.9 mM, 9.58 g | BrCCCCCCCCCCCCCCC | C15H31Br
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | p-pentadecanoxybenzaldehyde | 8.91 g | C(CCCCCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C22H36O2
